US06344590B1
The procedure of Example 1 was repeated, except that 1.0 mol of 1-acetyl-3-adamantanol obtained according to the process of Reference Example 2 was employed instead of 1-acetyladamantane, to give 3-hydroxy-α-isopropyl-α-methyl-1-adamantanemethanol in yield of 48%.

reactant | 1-acetyl-3-adamantanol | 1.0 mol | C(C)(=O)C12CC3(CC(CC(C1)C3)C2)O | C12H18O2
reactant | 1-acetyladamantane | C(C)(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
product | 3-hydroxy-α-isopropyl-α-methyl-1-adamantanemethanol | yield of 48% | OC12CC3(CC(CC(C1)C3)C2)C(O)(C)C(C)C | C15H26O2
